* source LM741
X_U1         N00506 N00436 VCC VEE N00436 LM741
V_V3         N00506 0  
+SIN 0 1 1k 0 0 0
V_V1         0 VEE 10
V_V2         VCC 0 10
